US20010016661A1
A solution of give 3-(4,5,7-trifluorobenzothiazol-2-yl)methyl-indole-N-acetic acid, ethyl ester (5.91 g, 14.6 mmol) in 1,2-dimethoxyethane (73 mL, 0.2 M) was cooled to 0° C. and treated with aq. NaOH (1.25 N, 58 mL, 73.1 mmol) in a dropwise manner over 15 min. After the addition was complete, the solution was stirred for an additional 30 min, acidified to pH 3 with 2N HCl, and concentrated under reduced pressure. The residue was dissolved in ethyl acetate (200 mL) and washed with sat'd. aq. NaCl (30 mL). The organic extract was dried over Na2SO4, filtered and concentrated. The resulting material was stirred as a supension in heptane, filtered and dried to give 3-(4,5,7-trifluorobenzothiazol-2-yl)methyl-indole-N-acetic acid (5.38 g, 98%) as a pale yellow solid: mp 177-178° C.; Rf 0.44 (20% methanol in dichloromethane); 1H NMR (DMSO-d6, 300 MHz) δ 7.74-7.65 (m, 1 H), 7.53 (d, J=7.5 Hz, 1 H), 7.46 (s, 1 H), 7.40 (d, J=8.1 Hz, 1 H), 7.15 (b t, J=6.9 Hz, 1 H), 7.03 (b t, J=7.2 Hz, 1 H), 5.03 (s, 2 H), 4.65 (s, 2 H); LRMS calcd for C18H11F3N2O2S: 376.4; found 375.0 (M−1)−. Anal. Calcd for C18H11F3N2O2S: C, 57.44; H, 2.95; N, 7.44; S, 8.52. Found C, 57.58; H, 2.99; N, 7.38; S, 8.51.

reactant | 3-(4,5,7-trifluorobenzothiazol-2-yl)methyl-indole-N-acetic acid, ethyl ester | 14.6 mmol, 5.91 g | FC1=C(C=C(C2=C1N=C(S2)CC2=CN(C1=CC=CC=C21)CC(=O)OCC)F)F | C20H15F3N2O2S
reactant | NaOH | 73.1 mmol, 1.25 N, 58 mL | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | 1,2-dimethoxyethane | 0.2 M, 73 mL | COCCOC | C4H10O2
product | 3-(4,5,7-trifluorobenzothiazol-2-yl)methyl-indole-N-acetic acid | 5.38 g, 98% | FC1=C(C=C(C2=C1N=C(S2)CC2=CN(C1=CC=CC=C21)CC(=O)O)F)F | C18H11F3N2O2S
